US06855710B2
b) 4-(Azetidin-1-yl-methyl)-aniline
Prepared analogously to Example 55 by catalytic hydrogenation of 4-(azetidin-1-yl-methyl)-nitrobenzene with Raney nickel as a light brown oil.

reactant | 4-(azetidin-1-yl-methyl)-nitrobenzene | N1(CCC1)CC1=CC=C(C=C1)[N+](=O)[O-] | C10H12N2O2
catalyst | Raney nickel | [Ni] | Ni
product | 4-(Azetidin-1-yl-methyl)-aniline | N1(CCC1)CC1=CC=C(N)C=C1 | C10H14N2
